US05424295
2-Amino-6-methoxy-9-(5-O-valeryl-β-D-arabinofuranosyl)-9H-purine
2-Amino-6-methoxy-9-β-D-arabinofuranosyl-9H-purine (1.0 g, 3.2 mmol) was suspended in 40 ml of pyridine that contained 300 μL of H2O and 2.0 mL of trichloroethyl valerate (Trichloroethyl valerate was synthesized by addition of 36 g of valeryl chloride (Aldrich) over 30 minutes to 45 g of trichloroethanol (Aldrich) in 50 mL of pyridine at 0° C. The product was purified by successive washing with 2×250 ml aliquots of H2O, 5% NaHCO3, and H2O. 1H-NMR (200 MHz, CDCl3): δ4.74 (s, 2H, Cl3CH2 --), 2.48 (t, 2H, J=7.6 Hz, CH3CH2CH2CH2CO2 --), 1.68 (m, 2H, CH3CH2CH2CH2CO2 --), 1.53 (M, 2H, CH3CH2CH2CH2CO2 --), 0.93 (t, 3H, J=7.2 Hz, CH3CH2CH2CH2CO2 --)). The reaction was initiated with 0.100 g of subtilisin (Sigma Chemical Co., St. Louis, Mo., P-5380, lot #38F-0356), which had been activated by dissolving 1 g of the enzyme in 20 ml of 0.1M potassium phosphate at pH 7.8 and lyophilizing to dryness. After stirring for 24 hours at 40° C., the reaction was quenched by filtering off the enzyme and the solvent was removed in vacuo. The crude product was purified by chromatography on a 4.5×25 cm silica gel column with CH2Cl2 :CH3OH (90:10) as the eluant. Product fractions were pooled and lyophilized from water to yield 0.85 g of the desired product as a white powder; m.p. 105° C.; TLC Rf =0.39 (silica gel; CH2Cl2:CH3OH (90:10)); UV λmax (ε;, mM- 1 cm-1) at pH 7.0, 279 nm (9.3); MS (Cl) 382 (M+1), 280 (M-C5H9CO2). 1H-NMR (200 MHz, DMSO-d6): δ7.83 (s, 1H, H8), 6.45 (s, 2H, 2-NH2), 6.15 (d, 1H, J=3.7 Hz, H1 '), 5.76(d, 1H, J=4.2 Hz, 2'--OH), 5.65 (d, 1H, J=3.5 Hz, 3'OH), 4.28 (m, 2H, H2' and H3'), 4.08(m, 2H H5'), 3.94 (s, 3H, --OCH3) 3.92 (m, 1H, H4'), 2.29 (t, 2H, J=7.1 Hz, CH3CH2CH2CH2CO2 --), 1.49(m, 2H, CH3CH2CH 2 CH2CO2 --) 1.28 (m, 2H CH3CH2CH2CH2CO2 --), 0.83 (t, 3H, J=7.2 Hz, CH3CH2CH2CH2CO2 --). Anal. Calcd. for C16H23N5O6.0.36 H2O: Calcd: C, 49.54; H, 6.16; N,18.05. Found: C, 49.52; H,6.15; N, 18.10.

reactant | 2-Amino-6-methoxy-9-β-D-arabinofuranosyl-9H-purine | 3.2 mmol, 1.0 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)OC | C11H15N5O5
reactant | trichloroethyl valerate | 2.0 mL | C(CCCC)(=O)OCC(Cl)(Cl)Cl | C7H11Cl3O2
reactant | valeryl chloride | 36 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | trichloroethanol | C(C(Cl)Cl)(O)Cl | C2H3Cl3O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | H2O | 300 μL | O | H2O
product | 2-Amino-6-methoxy-9-(5-O-valeryl-β-D-arabinofuranosyl)-9H-purine | 0.85 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)COC(CCCC)=O)OC | C16H23N5O6
